US04159331
1-[(p-Nitrophenyl)sulfonyl]-4-(m-chlorophenyl)piperazine is reduced with aqueous titanium trichloride in ether solution by dropwise addition of aqueous TiCl3 until the purple color is no longer discharged. The reaction progress is followed by thin layer chromatography. Work-up with concentrated ammonium hydroxide and subsequently aqueous potassium hydroxide followed by isolation, drying, and concentration of the organic layer gives 1-[p-aminophenyl)sulfonyl]-4-(m-chlorophenyl)piperazine.

reactant | 1-[(p-Nitrophenyl)sulfonyl]-4-(m-chlorophenyl)piperazine | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C1=CC(=CC=C1)Cl | C16H16ClN3O4S
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | potassium hydroxide | [OH-].[K+]
solvent | ether | CCOCC | C4H10O
catalyst | titanium trichloride | [Cl-].[Cl-].[Cl-].[Ti+3]
product | 4-(m-chlorophenyl)piperazine | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
